US05576343
A solution of 7.3 g of potassium hydroxide dissolved in 20 ml of water was added to 200 ml of an ethanol solution containing 24.2 g of 3-(5-bromobenzo[b]thien-2-yl)-2-ethoxycarbonyl-2-(4-methoxyphenyl)propionate obtained in the above step a), and the thus prepared mixture was stirred for 4 days. The resulting reaction solution was poured into cooled dilute hydrochloric acid to collect precipitated crystals by filtration. The thus collected crystals were dissolved in ethyl acetate, and then dried. After distilling off the solvent, the resulting residue was dissolved in 200 ml of ethanol, mixed With 3 ml of concentrated sulfuric acid, and then refluxed under heating for 2 hours. After cooling, the resulting reaction solution was concentrated, mixed with chloroform, washed with water, and then dried. After distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using chloroform as an eluant, thereby obtaining 20 g of ethyl 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)propionate.

reactant | potassium hydroxide | 7.3 g | [OH-].[K+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | 3-(5-bromobenzo[b]thien-2-yl)-2-ethoxycarbonyl-2-(4-methoxyphenyl)propionate | 24.2 g | BrC1=CC2=C(SC(=C2)CC(C(=O)[O-])(C2=CC=C(C=C2)OC)C(=O)OCC)C=C1
reactant | hydrochloric acid | Cl | ClH
solvent | water | 20 ml | O | H2O
product | ethyl 3-(5-bromobenzo[b]thien-2-yl)-2-(4-methoxyphenyl)propionate | 20 g | BrC1=CC2=C(SC(=C2)CC(C(=O)OCC)C2=CC=C(C=C2)OC)C=C1 | C20H19BrO3S
